US05962529
N4 -Hydroxycarbamoylmethyl-2,N4 -diisobutyl-N1 -methyl-succinamide
N4 -(Benzyloxycarbamoyl-methyl)-2,N4 -diisobutyl-N1 -methyl-succinamide (0.30 g, 0.74 mmol) was deprotected by catalytic hydrogenolysis as described in Example 30 (Step I) then purified by column chromatography (silica gel, 5% methanol in dichloromethane) to give the product as a white hygroscopic solid. m.p. 60.5-61.5° C. 1H-NMR; δ (CD3OD), 4.16-3.62 (2H, br m), 3.31-2.82 (2H, br m), 2.69 (1H, m), 2.58 (4H, m), 2.30 (1H, m), 1.82 (1H, m), 1.42 (2H, m), 1.18 (1H, m) and 0.78 (12H, br m). 13C-NMR; δ (CD3OD), 178.6, 178.4,174.7, 174.5, 168.3, 167.9, 57.5, 55.4, 48.6, 43.1, 43.0, 42.6, 42.3, 37.0, 32.7, 28.9, 28.0, 27.0, 26.3, 23.6, 23.3, 22.6, 20.5, 20.3 and 14.4. IR (KBr) vmax 3309, 2957, 2871, 1681, 1636,1560 and 1490 cm-1.

reactant | N4 -(Benzyloxycarbamoyl-methyl)-2,N4 -diisobutyl-N1 -methyl-succinamide | 0.74 mmol, 0.30 g | C(C1=CC=CC=C1)ONC(=O)CN(C(CC(C(=O)NC)CC(C)C)=O)CC(C)C | C22H35N3O4
reactant | KBr | [K+].[Br-]
product | N4 -Hydroxycarbamoylmethyl-2,N4 -diisobutyl-N1 -methyl-succinamide | ONC(=O)CN(C(CC(C(=O)NC)CC(C)C)=O)CC(C)C | C15H29N3O4
